US04480101
To a solution of 9.0 g of 2-amino-4-difluoromethoxy-6-methyl-pyrimidine in 30 ml of absolute tetrahydrofuran are added successively 3.9 g of chloroformic acid-phenyl ester and 0.05 g of 4-dimethylamino-pyridine. After the solution has been stirred at 20° to 25° C. for 24 hours, the reaction mixture is diluted with 250 ml of ethyl acetate, and the occurring precipitate is separated. There are thus obtained 3.1 g of 2-amino-4-difluoromethoxy-6-methyl-pyrimidine hydrochloride, m.p. 204° to 205° C. (decomposition). In order to remove the residual starting material, the filtrate is eluted through an acid with ion-exchanger I®(MERCK), dried over sodium sulfate and concentrated by evaporation to thus obtain as crude product, in the form of a viscous oil, 4.0 g of 2-phenoxycarbonylamino-4-difluoromethoxy-6-methyl-pyrimidine (compound No. 2.28), which melts at 56° to 58° C. after crystallisation;

reactant | 2-amino-4-difluoromethoxy-6-methyl-pyrimidine | 9.0 g | NC1=NC(=CC(=N1)OC(F)F)C | C6H7F2N3O
reactant | chloroformic acid-phenyl ester | 3.9 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylamino-pyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 2-phenoxycarbonylamino-4-difluoromethoxy-6-methyl-pyrimidine | 4.0 g | O(C1=CC=CC=C1)C(=O)NC1=NC(=CC(=N1)OC(F)F)C | C13H11F2N3O3
